US05814636
A mixture of 1-t-butoxycarbonyl-4-oxopiperidine (9.06 g) and 2,6-dioxopiperazine (3.99 g) was dissolved in 1,2-dichloroethane (170 ml), and acetic acid (20 ml) of triacetoxyboronsodium hydride (9.64 g) were added to the solution, followed by stirring at room temperature for 17 hours. Then, water was added to the reaction solution under ice-cooling, and sodium hydrogencarbonate was added to the solution to neutralize acetic acid. The reaction solution was charged into a separating funnel to separate an aqueous layer from an organic layer. The aqueous layer was extracted with chloroform, and the extracted organic layer was then combined with the above organic layer. The combined organic layer was washed with a saturated saline solution and then dried over sodium sulfate. After the solvent was evaporated, the residue was purified by silica gel column chromatography (350 g, chloroform→chloroform:methanol=60:1) to give a crystal. Then, n-hexane was added to the crystal, and the crystal was collected by filtration to give 6.46 g (62%) of 4-(1-t-butoxycarbonylpiperidin-4-yl)-2,6-dioxopiperazine.

reactant | 1-t-butoxycarbonyl-4-oxopiperidine | 9.06 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 2,6-dioxopiperazine | 3.99 g | O=C1NC(CNC1)=O | C4H6N2O2
reactant | hydride | 9.64 g | [H-]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 170 ml | ClCCCl | C2H4Cl2
solvent | n-hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 4-(1-t-butoxycarbonylpiperidin-4-yl)-2,6-dioxopiperazine | 6.46 g, 62% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CC(NC(C1)=O)=O | C14H23N3O4
